US04999429
A mixture of 100 mg (0.52 mmol) of difluoromethyl phenyl sulfone 1.5 mL of dichloromethane, 1.0 mL of 50% sodium hydroxide in water, and one drop of Aliquat®336 (Aliquat is a registered trademark of Henkel Corporation--Aliquat 336 is tricaprylylmethylammonium chloride) was stirred vigorously for 10 minutes and treated with a solution of 0.16 mL (1.6 mmol) of benzaldehyde in 0.5 mL of dichloromethane. Vigorous stirring was continued for 3.5 hours and the resulting gel-like mixture was poured into 20 mL of IN HCl. Extraction of the aqueous mixture with two 10 mL portions of dichloromethane followed by combination, drying (MgSO4), and concentration in vacuo of the organic layers gave a residue which was purified by preparative TLC (one 2 mm silica gel plate eluted with dichloromethane), affording 94 mg (61% yield) of 2,2-difluoro-1-phenyl-2-phenylsulfonylethanol as a semisolid; IR (neat) 3503, 3064, 2922, 1447, 1335, 1312, 1197, 1154, 1113, 1089, 996, 738, 715, 698, 685, 585, 558, cm-1 ; 1H NMR (CDCl3) δ3.54 (broad s, lH), 5.54 (dd, IH, JHF =21, 2Hz), 7.20-8.10 (m, 10H); 19FNMR (CDCl3, relative to external CF3CO2H)-26.50 ppm (dd, lF, JFF =238 Hz, JHF =2 Hz, -41.68 ppm (dd, lF, JFF =238 Hz, JHF =21 Hz); mass spectrum (70 eV) m/e (relative intensity) 298 (8,M+), 156 (18), 109 (31), 107 (100), 79 (30), 78 (18), 77 (56), 51 (20).

reactant | difluoromethyl phenyl sulfone | 0.52 mmol, 1.5 mL, 100 mg | C1(=CC=CC=C1)S(=O)(=O)C(F)F | C7H6F2O2S
reactant | sodium hydroxide | 1.0 mL | [OH-].[Na+]
reactant | tricaprylylmethylammonium chloride | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
reactant | benzaldehyde | 1.6 mmol, 0.16 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | O | H2O
catalyst | Aliquat 336 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | HCl | Cl | ClH
product | 2,2-difluoro-1-phenyl-2-phenylsulfonylethanol | 94 mg, 61% yield | FC(C(O)C1=CC=CC=C1)(S(=O)(=O)C1=CC=CC=C1)F | C14H12F2O3S
